US04028319
The N-t-butoxycarbonyl-L-tyrosylglycyl-L-alanyl-L-phenylalanyl-L-leucine is dissolved in 100 parts dioxane and stirred with a ten-fold excess of 2 N HCl in dioxane at room temperature for 15 minutes. The solvent is then removed under reduced pressure and the residue triturated with ethyl ether. The resulting solid is precipitated from the mixture of methanol and ether to afford L-tyrosylglycyl-L-alanyl-L-phenylalanyl-L-leucine hydrochloride.

reactant | N-t-butoxycarbonyl-L-tyrosylglycyl-L-alanyl-L-phenylalanyl-L-leucine | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)NCC(=O)N[C@@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)O | C34H47N5O9
reactant | HCl | 2 N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | L-tyrosylglycyl-L-alanyl-L-phenylalanyl-L-leucine hydrochloride | Cl.N[C@@H](CC1=CC=C(C=C1)O)C(=O)NCC(=O)N[C@@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)O | InChI=1S/C29H39N5O7.ClH/c1-17(2)13-24(29(40)41)34-28(39)23(15-19-7-5-4-6-8-19)33-26(37)18(3)32-25(36)16-31-27(38)22(30)14-20-9-11-21(35)12-10-20;/h4-12,17-18,22-24,35H,13-16,30H2,1-3H3,(H,31,38)(H,32,36)(H,33,37)(H,34,39)(H,40,41);1H/t18-,22-,23-,24-;/m0./s1
